US08895596B2
Step C: Ethyl 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclobutane carboxylate.
To a solution of ethyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate (0.160 g, 0,260 mmol) and Pd(OH)2 (0.048 g, 0.068 mmol) in 2.5 mL of EtOAc and 1.25 mL of EtOH was added 1,4-cyclohexadiene (0.630 mL, 6.70 mmol). The resulting black suspension was microwaved at 130° C. for 2 h. Then the reaction was filtered through a Celite™ pad, washed with 100% EtOAc, and the filtrate was concentrated in vacuo. Purification of the resulting residue by reverse phase Gilson™ HPLC (50-100% MeCN/H2O) afforded the title compound as a white solid. LCMS: calculated for C26H22F2N2O3 448.46, observed m/e 449.0 (M+H)+ (Rt 2.27/4 min).

reactant | ethyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate | 0,260 mmol, 0.160 g | C1(=CC=C(C=C1)C1=C(C2=C(N(C(=N2)OC2CC(C2)C(=O)OCC)CC2=CC=C(C=C2)C2=CC=CC=C2)C=C1F)F)C1=CC=CC=C1 | C39H32F2N2O3
reactant | 1,4-cyclohexadiene | 6.70 mmol, 0.630 mL | C1=CCC=CC1 | C6H8
solvent | EtOAc | 2.5 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 1.25 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 0.068 mmol, 0.048 g | [OH-].[OH-].[Pd+2]
product | Ethyl 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclobutane carboxylate | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OC2CC(C2)C(=O)OCC)C=C1F)F)C1=CC=CC=C1 | C26H22F2N2O3
